US06258829B1
4-Chloro-2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carbonylguanidine
When the method of Inventive Example 17 was repeated using 2-methyl-4-nitro-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylic acid (750.1 mg, 3.00 mmol) and guanidine hydrochloride (2.77 g, 29.0 mmol), chlorination of the nitro group occurred at the same time and the title compound (134.5 mg, 16.0%) was obtained as white powder.

reactant | 2-methyl-4-nitro-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylic acid | 3.00 mmol, 750.1 mg | CC1=C(C(=C2C(=N1)CCCCC2)[N+](=O)[O-])C(=O)O | C12H14N2O4
reactant | guanidine hydrochloride | 29.0 mmol, 2.77 g | Cl.NC(=N)N
product | 4-Chloro-2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carbonylguanidine | 134.5 mg, 16.0% | ClC1=C2C(=NC(=C1C(=O)NC(=N)N)C)CCCCC2 | C13H17ClN4O
